US07202363B2
N-{4-[4-amino-7-({3-[[3-(dimethylamino)propyl](methyl)amino]propanoyl}amino)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using 1-methyl-1H-indole-2-carbonyl chloride, N-[4-Amino-3-(4-amino-3-methoxyphenyl)-thieno[3,2-c]pyridin-7-yl]-3-[(3-dimethylamino-propyl)methylamino]propionamide, and the procedure described in General Procedure F. m/z (M+H)+ 614.3.

reactant | 1-methyl-1H-indole-2-carbonyl chloride | CN1C(=CC2=CC=CC=C12)C(=O)Cl | C10H8ClNO
reactant | N-[4-Amino-3-(4-amino-3-methoxyphenyl)-thieno[3,2-c]pyridin-7-yl]-3-[(3-dimethylamino-propyl)methylamino]propionamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)N)OC)NC(CCN(C)CCCN(C)C)=O | C23H32N6O2S
product | N-{4-[4-amino-7-({3-[[3-(dimethylamino)propyl](methyl)amino]propanoyl}amino)thieno[3,2-c]pyridin-3-yl]-2-methoxyphenyl}-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)NC(CCN(C)CCCN(C)C)=O | C33H39N7O3S
